US06261738B1
16.1: 2,2,2-Trifluoro-1-(4-methoxyphenyl)-ethanone
29.0 g (0.268 mol) of anisole and 32.8 g (0.268 mol) of 4-dimethylaminopyridine are mixed in 300 ml of CH2Cl2 and cooled by an ice bath. To the solution are added dropwise 56.3 g (0.268 mol) of trifluoroacetic anhydride, followed by 82.2 g (0.616 mol) of AlCl3 by portions. The reaction mixture is stirred at room temperature overnight, poured into ice water, and extracted with CH2Cl2. The organic phase is washed with water, dried over MgSO4, and concentrated. The residue is purified by flash chromatography on silica gel with ethyl acetate and hexane (5:95), yielding 37.8 g of the product as a brownish liquid.

reactant | anisole | 0.268 mol, 29.0 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic anhydride | 0.268 mol, 56.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | AlCl3 | 0.616 mol, 82.2 g | [Al+3].[Cl-].[Cl-].[Cl-]
catalyst | 4-dimethylaminopyridine | 0.268 mol, 32.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(4-methoxyphenyl)-ethanone | 37.8 g | FC(C(=O)C1=CC=C(C=C1)OC)(F)F | C9H7F3O2
